US07504420B2
To 3-(prop-1-en-2-yl)benzonitrile (1.2 gm, 8.3 mmol) in ethyl acetate (30 ml) 10% Pd/C (120 mg) was added and stirred under hydrogen atmosphere for 16 h. Then the reaction mixture was filtered and solvent evaporated to obtain 3-isopropylbenzonitrile in quantitative yield.

reactant | 3-(prop-1-en-2-yl)benzonitrile | 8.3 mmol, 1.2 gm | C=C(C)C=1C=C(C#N)C=CC1 | C10H9N
solvent | ethyl acetate | 30 ml, 120 mg | C(C)(=O)OCC | C4H8O2
product | 3-isopropylbenzonitrile | quantitative yield | C(C)(C)C=1C=C(C#N)C=CC1 | C10H11N
